datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[N:10]2CCN1CC2.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C[CH:20]([N+:10]56CCN(CC5)CC6)C1C2C43 10=20;20,21=21"
"CC(C)(C)C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC(C)(C)C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
"C1CC[NH:10]C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([NH+:10]1CCCC1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C[S+:61](C)[O-:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[S+:61](C)[O:10][C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10=20
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C(C#N)C=C2)[C:72](=[O:73])[O:83]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C(C#N)C=C2)([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)[C:72](=[O:73])[O:83]1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH2:10][C:11](C)=[O+:12][Si:63](C)(C)C)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12]>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:11](=[O:12])[C:72]3=[C:73](C=CC=C3)[C:61]2=[O:62])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.C1C[C:22](=[O:23])[CH:21]=[CH:20]1>>C1=CC=C([O:61][P+:10]([CH:20]2CC[C:22]([O-:23])=[CH:21]2)([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1 10=20;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[CH:10][C:61](=[O:62])C1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[C:11](=[O:12])CC(C)(C)C[C:61]2=[O:62])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.CC[O:72][C:61]([C:10](=[C:11](C1=CC=CC=C1)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62]>>CC[O:72][C:61]([C:10]([C:11](C1=CC=CC=C1)=[O:12])([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42](C1=CC=CC=C1)[C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12"
"CC[Si:11](C)(C)[H:10].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[Si+:11](C)C.F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
